US05370819
4-Ethylphenylacetylene (1.3 g) was dissolved in THF (20 ml), followed by dropwise adding an n-butyllithium-hexane solution (1.61M, 0.62 ml) under ice cooling with stirring, further stirring the reaction solution under ice cooling for 30 minutes, dropwise adding a solution of 2-(4-ethylcyclohexyl)acetaldehyde (1.5 g) in THF (10 ml) , raising the temperature of the reaction solution up to room temperature after completion of the addition, stirring it for 5 hours, adding dilute hydrochloric acid (5 ml) to the resulting raw solution, extracting with ethyl acetate (50 ml), washing the organic layer with water, drying over anhydrous MgSO4 and concentrating under reduced pressure, to obtain a brown oil, which was then recrystallized from an ethyl acetate-heptane mixed solution, to obtain white crystals of 1-(4-ethylphenyl)-4-(4-ethylcyclohexyl)-1-butyn-3-ol (2.3 g).

reactant | 4-Ethylphenylacetylene | 1.3 g | C(C)C1=CC=C(C=C1)C#C | C10H10
reactant | 2-(4-ethylcyclohexyl)acetaldehyde | 1.5 g | C(C)C1CCC(CC1)CC=O | C10H18O
reactant | hydrochloric acid | 5 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-(4-ethylphenyl)-4-(4-ethylcyclohexyl)-1-butyn-3-ol | 2.3 g | C(C)C1=CC=C(C=C1)C#CC(CC1CCC(CC1)CC)O | C20H28O
